US06080743
a) N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-3-(4-methoxyphenyl)-urea
62 mg (0.416 mmol) of 4-methoxyphenyl isocyanate are added at room temperature to a suspension of 100 mg (0.379 mmol) of 5-aminomethyl-2,3-dimethoxy-7-nitro-quinoxaline in 2 ml of tert-butyl methyl ether, and the mixture is stirred for 3 hours. The suspension is then filtered off, and the filter residue is washed with tert-butyl methyl ether and dried under a high vacuum. The title compound is obtained in the form of a beige solid.

reactant | 4-methoxyphenyl isocyanate | 0.416 mmol, 62 mg | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | 5-aminomethyl-2,3-dimethoxy-7-nitro-quinoxaline | 0.379 mmol, 100 mg | NCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H12N4O4
solvent | tert-butyl methyl ether | 2 ml | COC(C)(C)C | C5H12O
product | N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-3-(4-methoxyphenyl)-urea | COC1=NC2=CC(=CC(=C2N=C1OC)CNC(=O)NC1=CC=C(C=C1)OC)[N+](=O)[O-] | C19H19N5O6
